US04435402
6-chloro-5-methyl-4-[2-(2-methyl-4-n-pentylphenoxy)ethylamino]pyrimidine (compound number 130)
To a solution of 3.2 g (0.02 mol) of 4,6-dichloro-5-methylpyrimidine in 50 ml of toluene were added 2.0 g (0.02 mol) of triethylamine and 4.4 g (0.02 mol) of 2-(2-methyl-4-n-pentylphenoxy)ethylamine. The mixture was then refluxed with stirring for 5 hours.

reactant | 4,6-dichloro-5-methylpyrimidine | 0.02 mol, 3.2 g | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-methyl-4-n-pentylphenoxy)ethylamine | 0.02 mol, 4.4 g | CC1=C(OCCN)C=CC(=C1)CCCCC | C14H23NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-5-methyl-4-[2-(2-methyl-4-n-pentylphenoxy)ethylamino]pyrimidine | ClC1=C(C(=NC=N1)NCCOC1=C(C=C(C=C1)CCCCC)C)C | C19H26ClN3O
